US06562811B1
To a stirred solution of tert-butyl 3-{2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-3-formyl-4-pyridinyl}-1-piperidinecarboxylate (0.090 g, 0.183 mmol) in 1,4-dioxane (2 mL) was added 4N HCl in dioxane (2 mL). The mixture was stirred at room temperature for 2 hrs. The resulting precipitate was collected by filtration, washed with acetonitril, and dried under reduced pressure to give 2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-4-(3-piperidinyl)nicotinaldehyde hydrochloride. (0.103 g, yield quant.)

reactant | tert-butyl 3-{2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-3-formyl-4-pyridinyl}-1-piperidinecarboxylate | 0.183 mmol, 0.090 g | NC1=NC(=CC(=C1C=O)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1=CC=CC=C1 | C29H33N3O5
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-amino-6-[2-(benzyloxy)-6-hydroxyphenyl]-4-(3-piperidinyl)nicotinaldehyde hydrochloride | Cl.NC1=C(C=O)C(=CC(=N1)C1=C(C=CC=C1O)OCC1=CC=CC=C1)C1CNCCC1 | InChI=1S/C24H25N3O3.ClH/c25-24-19(14-28)18(17-8-5-11-26-13-17)12-20(27-24)23-21(29)9-4-10-22(23)30-15-16-6-2-1-3-7-16;/h1-4,6-7,9-10,12,14,17,26,29H,5,8,11,13,15H2,(H2,25,27);1H
